US05981207
The procedure for the preparation of 6-hydroxy-2-(methoxytricyclo[3.3.1.13,7 ]dec-2-ylidene-methyl)naphthalene (Edwards, B., Sparks, A., Voyta, J. C., Strong, R., Murphy, O., Bronstein, I., J. Org. Chem., 55, 6225-6229 (1990) and (U.S. Pat. No. 5,538,847, issued Jul. 23, 1996)), was followed to prepare both the naphthalene and benzene derivatives (Scheme 4). Subsequent phosphorylation of 1-hydroxy-3-(methoxytricyclo[3.3.1.13,7 ]dec-2-ylidenemethyl)benzene with methyl dichlorophosphate in pyridine and coupling with 4,5-dimethoxy 2-nitrobenzyl alcohol in pyridine (Rubinstein, M., Patchornik, A., Tetrahedron 31, 2107-2110 (1975)) afforded pyridinium 4,5-dimethoxy-2-nitrobenzyl 3-(methoxytricyclo[3.3.1.13,7 ]dec-2-ylidenemethyl)phenyl phosphate, which, upon ion exchange to the triethylamine salt, provided compound 9a in Scheme 4. Oxidation afforded 4,5-dimethoxy-2-nitrobenzyl (4-methoxyspiro[1,2-dioxetane-3,2'-tricyclo[3.3.1.13,7 ]decan]-3-yl)phenyl phosphate as the triethylamine salt (compound 10a in Scheme 4) [see Edwards et al., J. Org. Chem., 55, 6225-6229 (1990)]. Similarly, phosphorylation of 1-hydroxy-3-(methoxytricyclo[3.3.1.13,7 ]dec-2-ylidenemethyl)benzene with methyl dichlorophosphate in pyridine and coupling with 2-nitrobenzyl alcohol in pyridine followed by ion exchange to TEA salt and subsequent oxidation afforded triethylammonium 2-nitrobenzyl (4-methoxyspiro[1,2-dioxetane-3,2'-tricyclo[3.3.1.13,7 ]decan]-3-yl)phenyl phosphate.

reactant | 6-hydroxy-2-(methoxytricyclo[3.3.1.13,7 ]dec-2-ylidene-methyl)naphthalene | OC=1C=C2C=CC(=CC2=CC1)C(=C1C2CC3CC(CC1C3)C2)OC | C22H24O2
reactant | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | 1-hydroxy-3-(methoxytricyclo[3.3.1.13,7 ]dec-2-ylidenemethyl)benzene | OC1=CC(=CC=C1)C(=C1C2CC3CC(CC1C3)C2)OC | C18H22O2
reactant | methyl dichlorophosphate | P(=O)(OC)(Cl)Cl | CH3Cl2O2P
reactant | 4,5-dimethoxy 2-nitrobenzyl alcohol | COC1=CC(=C(CO)C=C1OC)[N+](=O)[O-] | C9H11NO5
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | pyridinium 4,5-dimethoxy-2-nitrobenzyl 3-(methoxytricyclo[3.3.1.13,7 ]dec-2-ylidenemethyl)phenyl phosphate | P(=O)(OCC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-])(OC1=CC(=CC=C1)C(=C1C2CC3CC(CC1C3)C2)OC)[O-].[NH+]2=CC=CC=C2 | InChI=1S/C27H32NO9P.C5H5N/c1-33-24-13-21(23(28(29)30)14-25(24)34-2)15-36-38(31,32)37-22-6-4-5-18(12-22)27(35-3)26-19-8-16-7-17(10-19)11-20(26)9-16;1-2-4-6-5-3-1/h4-6,12-14,16-17,19-20H,7-11,15H2,1-3H3,(H,31,32);1-5H
